US07217730B2
1-Carboxymethyl-5-cyano-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indole-7-carboxylic acid
To a solution of 5-Cyano-1-ethoxycarbonylmethyl-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indole-7-carboxylic acid (27.9 mg, 0.073 mmol) in EtOH (2 mL) was added 10% NaOH (200 μL). The solution was stirred for 18 hours, acidified with 3% HCl, and extracted with EtOAc (2×). The organic layers were combined, washed with brine, dried (Na2SO4) and concentrated in vacuo to afford 25.6 mg (99%) of the title compound as an off-white solid. 1H NMR (d6-DMSO) δ 11.42 (br s,1 H), 7.93 (s, 1H), 3.97 (m, 2H), 3.00 (d, J=13.8 Hz, 1H), 2.88 (m, 2H), 2.81 (s, 3H), 2.76 (d, J=13.8 Hz, 1H), 2.04 (m, 2H), 1.30 (m,1H), 0.80 (m, 4H). ESI MS m/z 355 (M−H).

reactant | 5-Cyano-1-ethoxycarbonylmethyl-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indole-7-carboxylic acid | 0.073 mmol, 27.9 mg | C(#N)C1=C2C3=C(NC2=C(C(=C1)C(=O)O)C)C(OCC3)(CCC)CC(=O)OCC | C21H24N2O5
reactant | NaOH | 200 μL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | 1-Carboxymethyl-5-cyano-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indole-7-carboxylic acid | 25.6 mg, 99% | C(=O)(O)CC1(OCCC2=C1NC1=C(C(=CC(=C21)C#N)C(=O)O)C)CCC | C19H20N2O5
